US08685970B2
A mixture of 2-(2-chloropyridin-4-yl)-N-(thiazol-2-yl)quinoline-8-carboxamide (200 mg, 0.55 mmol), azetidine (314 mg, 5.5 mmol), CsF (84 mg, 0.55 mmol) and t-BuOK (185 mg, 1.65 mmol) in DMF (4 mL) under N2 was microwave heated (150° C.×12 min). The reaction mixture was cooled, diluted with water, and extracted with ethyl acetate (3×10 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by chromatography on silica gel (10% methanol in CH2Cl2) to obtain of 2-(2-(azetidin-1-yl)pyridin-4-yl)-N-(thiazol-2-yl)quinoline-8-carboxamide as a solid (50 mg, 23% yield). MS (ESI) calcd for C21H17N5OS (m/z): 387.12. found: 388 [M+1].

reactant | 2-(2-chloropyridin-4-yl)-N-(thiazol-2-yl)quinoline-8-carboxamide | 0.55 mmol, 200 mg | ClC1=NC=CC(=C1)C1=NC2=C(C=CC=C2C=C1)C(=O)NC=1SC=CN1 | C18H11ClN4OS
reactant | azetidine | 5.5 mmol, 314 mg | N1CCC1 | C3H7N
reactant | CsF | 0.55 mmol, 84 mg | [F-].[Cs+]
reactant | t-BuOK | 1.65 mmol, 185 mg | CC(C)(C)[O-].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2-(azetidin-1-yl)pyridin-4-yl)-N-(thiazol-2-yl)quinoline-8-carboxamide | 50 mg, 23% yield | N1(CCC1)C1=NC=CC(=C1)C1=NC2=C(C=CC=C2C=C1)C(=O)NC=1SC=CN1 | C21H17N5OS
